US08455514B2
To 6-aminoisoquinolin-1-ol in H2O was added NaHCO3 followed by a solution of (R)-tert-butyl 2-fluoro-2 oxo-1-(thiophen-3-yl)ethylcarbamate in CH2Cl2. The solution was stirred for 4 hours, extracted with EtOAc and NH4Cl(sat)/HCl(1N) and then with NaHCO3 (0.05%), dried (Na2SO4), filtered and evaporated. Column chromatography (SiO2, 5% MeOH, CH2Cl2) gave pure (R)-tert-butyl 2-(1-hydroxyisoquinolin-6-ylamino)-2-oxo-1-(thiophen-3-yl)ethylcarbamate (95% ee by Chiracel OD-RH)

reactant | 6-aminoisoquinolin-1-ol | NC=1C=C2C=CN=C(C2=CC1)O | C9H8N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | (R)-tert-butyl 2-fluoro-2 oxo-1-(thiophen-3-yl)ethylcarbamate | FC([C@@H](C1=CSC=C1)NC(OC(C)(C)C)=O)=O | C11H14FNO3S
solvent | H2O | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 2-(1-hydroxyisoquinolin-6-ylamino)-2-oxo-1-(thiophen-3-yl)ethylcarbamate | OC1=NC=CC2=CC(=CC=C12)NC([C@@H](C1=CSC=C1)NC(OC(C)(C)C)=O)=O | C20H21N3O4S
